US04386031
(c) 8-[4-Methoxy-N-(4-methoxyphenyl)-benzamido]-caprylic acid
As described in example 1(b), 10 g (24 mmol) of 8-[4-methoxy-N-(4-methoxyphenyl)-benzamido]-caprylic acid methyl ester is reacted with 2 g (50 mmol) of sodium hydroxide and 200 cc. of methanol. Reaction time: 6 hours, reaction temperature: 25° C.

reactant | 8-[4-methoxy-N-(4-methoxyphenyl)-benzamido]-caprylic acid methyl ester | 24 mmol, 10 g | COC(CCCCCCCN(C(C1=CC=C(C=C1)OC)=O)C1=CC=C(C=C1)OC)=O | C24H31NO5
reactant | sodium hydroxide | 50 mmol, 2 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 8-[4-Methoxy-N-(4-methoxyphenyl)-benzamido]-caprylic acid | COC1=CC=C(C(=O)N(C2=CC=C(C=C2)OC)CCCCCCCC(=O)O)C=C1 | C23H29NO5
